US05316755
Ethyl 2,2-Bis-(3-iodophenoxy)acetate
A stirred solution of 40.0 g (0.18 mol) of 3-iodophenol, 33.6 ml (0.18 mol) of diethyl bromomalonate and 27.63 g (0.2 moles) of milled anhydrous potassium carbonate in 250 ml dry N,N-dimethylformamide was heated at 110°-120° C. under argon for 14 hours. The mixture was cooled and concentrated in vacuo. The resulting residue was combined with 600 ml of ice-cold water and the oily product was extracted with ethyl acetate (4×150 ml). The combined ethyl acetate extracts were dried (MgSO4) and concentrated in vacuo to an orange oil. The orange oil was purified by chromatography (eluted by 5% methylene chloride in hexanes to 50% methylene chloride in hexanes) to yield 8.1 g (8.5%) of the desired product as a tan oil.

reactant | 3-iodophenol | 0.18 mol, 40.0 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | diethyl bromomalonate | 0.18 mol, 33.6 ml | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | potassium carbonate | 0.2 moles, 27.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Ethyl 2,2-Bis-(3-iodophenoxy)acetate | 8.1 g, 8.5% | IC=1C=C(OC(C(=O)OCC)OC2=CC(=CC=C2)I)C=CC1 | C16H14I2O4
